US06008230
To a mixture of sodium sulfide nonahydrate (202 mg) in dimethylformamide (5 ml) was dropwise added 4-chloro-8-(2,6-dichlorobenzoylamino)-3-ethoxycarbonylquinoline (297 mg), and the mixture was stirred for 1 hour at ambient temperature. To the mixture was added ice-water, and the mixture was adjusted to pH 3 with 1N hydrochloric acid. The resulting precipitate was collected by filtration and washed with water to give 8-(2,6-dichlorobenzoylamino)-3-ethoxycarbonyl-4-mercaptoquinoline (260 mg).

reactant | sodium sulfide nonahydrate | 202 mg | O.O.O.O.O.O.O.O.O.[S-2].[Na+].[Na+]
reactant | 4-chloro-8-(2,6-dichlorobenzoylamino)-3-ethoxycarbonylquinoline | 297 mg | ClC1=C(C=NC2=C(C=CC=C12)NC(C1=C(C=CC=C1Cl)Cl)=O)C(=O)OCC | C19H13Cl3N2O3
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 8-(2,6-dichlorobenzoylamino)-3-ethoxycarbonyl-4-mercaptoquinoline | 260 mg | ClC1=C(C(=O)NC=2C=CC=C3C(=C(C=NC23)C(=O)OCC)S)C(=CC=C1)Cl | C19H14Cl2N2O3S
